US08895582B2
To a solution of (S)-5-((tert-butyldimethylsilyloxy)methyl)pyrrolidin-2-one (48.5 g, 0.21 mol) in THF (100 mL) was added t-BuOK (30.8 g, 0.27 mol) at 0° C. The mixture was stirred at 0° C. for 30 min followed by addition of Cbz-Cl (40.4 mL, 0.27 mol) dropwise at 0° C. The resulting mixture was stirred at RT overnight, quenched with saturated NH4Cl, concentrated to a small amount, and diluted with EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel column using a mixture of EtOAc and hexanes to give (S)-benzyl 2-((tert-butyldimethylsilyloxy)methyl)-5-oxopyrrolidine-1-carboxylate (70 g, 91%). LRMS (M+H−44) m/z 320.2.

reactant | (S)-5-((tert-butyldimethylsilyloxy)methyl)pyrrolidin-2-one | 0.21 mol, 48.5 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CCC(N1)=O | C11H23NO2Si
reactant | t-BuOK | 0.27 mol, 30.8 g | CC(C)(C)[O-].[K+]
reactant | Cbz-Cl | 0.27 mol, 40.4 mL | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-benzyl 2-((tert-butyldimethylsilyloxy)methyl)-5-oxopyrrolidine-1-carboxylate | 70 g, 91% | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(C(CC1)=O)C(=O)OCC1=CC=CC=C1 | C19H29NO4Si
